US06110952
A mixture of 2-amino-3-ethyl-4-trifluoroacetamidophenol (18.15 mmol) and concentrated hydrochloric acid (45 mL) in methanol (5.2 mL) is treated with triethyl orthoformate (27.2 mmol). A simple distillation apparatus is attached and the mixture is heated with an oil bath to 90° C. and methanol is distilled from the reaction. The reaction mixture is cooled to room temperature and distributed between ethyl ether (200 mL) and water (20 mL). The ether layer is washed with a 0.1 M aqueous solution of sodium hydroxide (20 mL), dried over magnesium sulfate and concentrated under reduced pressure to yield 4-ethyl-5-trifluoroacetamidobenzoxazole.

reactant | 2-amino-3-ethyl-4-trifluoroacetamidophenol | 18.15 mmol | NC1=C(C=CC(=C1CC)NC(C(F)(F)F)=O)O | C10H11F3N2O2
reactant | hydrochloric acid | 45 mL | Cl | ClH
reactant | triethyl orthoformate | 27.2 mmol | C(OCC)(OCC)OCC | C7H16O3
solvent | methanol | 5.2 mL | CO | CH4O
product | 4-ethyl-5-trifluoroacetamidobenzoxazole | C(C)C1=C(C=CC2=C1N=CO2)NC(C(F)(F)F)=O | C11H9F3N2O2
